US09260408B2
3-(6-Bromo-3-nitro-pyridin-2-yl)-3-(toluene-4-sulfonyl)-propionic acid methyl ester (1.2 g, 2.7 mmol), Pd(PPh3)2Cl2 (190 mg, 0.27 mmol), Na2CO3 (572 mg, 5.4 mmol) and 3-(methoxycarbonyl)pyridine-5-boronic acid pinacol ester (926 mg, 3.5 mmol) were dissolved in 1,4-dioxane (4.0 mL) and the resulting reaction mixture was heated at 120° C. for 3 hours before it was poured into H2O (50 mL). After extraction with EtOAc, the organic layer was washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo to give 6-(2-methoxycarbonyl-vinyl)-5-nitro-[2,3′]bipyridinyl-5′-carboxylic acid methyl ester (926 mg, quant.) as a light yellow solid. MS: 344.1 (M+H+).

reactant | 3-(6-Bromo-3-nitro-pyridin-2-yl)-3-(toluene-4-sulfonyl)-propionic acid methyl ester | 2.7 mmol, 1.2 g | COC(CC(S(=O)(=O)C1=CC=C(C=C1)C)C1=NC(=CC=C1[N+](=O)[O-])Br)=O | C16H15BrN2O6S
reactant | Na2CO3 | 5.4 mmol, 572 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-(methoxycarbonyl)pyridine-5-boronic acid pinacol ester | 3.5 mmol, 926 mg | COC(=O)C=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C13H18BNO4
reactant | H2O | 50 mL | O | H2O
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.27 mmol, 190 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(2-methoxycarbonyl-vinyl)-5-nitro-[2,3′]bipyridinyl-5′-carboxylic acid methyl ester | 926 mg | COC(=O)C=1C=C(C=NC1)C1=NC(=C(C=C1)[N+](=O)[O-])C=CC(=O)OC | C16H13N3O6
